US04320218
Into a glass reactor equipped with a dropping funnel and nitrogen inlet is charged methanol (240 ml) containing potassium hydroxide (1.2 moles). The solution is cooled to 10°-15° C. and freshly distilled cyclopentadiene (2 moles) is added. The solution is cooled to -5° to 5° C. and methylvinylketone (2 moles) is added dropwise during 23/4 hours. After addition, cooling is removed and the solution is stirred for about 15 hours. Then an equal volume of distilled water is added and the organic layer is extracted with chloroform. The organic layer is separated, dried and the chloroform evaporated leaving a red viscous oil, which is vacuum distilled to give the product, methyl vinyl fulvene.

reactant | potassium hydroxide | 1.2 moles | [OH-].[K+]
reactant | cyclopentadiene | 2 moles | C1=CC=CC1 | C5H6
reactant | methylvinylketone | 2 moles | CC(=O)C=C | C4H6O
reactant | methanol | 240 ml | CO | CH4O
product | methyl vinyl fulvene | CC1=C(C(C=C1)=C)C=C | C9H10
